US04399147
(13E)-(5RS,6RS,9α,11α,15R)-5-Bromo-6,9-epoxy-11,15-dihydroxy-16,16-dimethylprost-13-enoic acid methyl ester
By proceeding as described in Example 1 but using 800 mg of N-bromosuccinimide and 1.47 g of (5Z,13E)-(9α,11α,15R)-9,11,15-trihydroxy-16,16-dimethylprosta-5,13-dienoic acid methyl ester dissolved in a mixture of 40 ml of chloroform and 4 ml of tetrahydrofuran, there was obtained 1.24 g of the title compound having the following physical characteristics:

reactant | N-bromosuccinimide | 800 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | (5Z,13E)-(9α,11α,15R)-9,11,15-trihydroxy-16,16-dimethylprosta-5,13-dienoic acid methyl ester | 1.47 g | COC(CCC\C=C/C[C@H]1[C@H](C[C@H]([C@@H]1\C=C\[C@H](C(CCCC)(C)C)O)O)O)=O | C23H40O5
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | (13E)-(5RS,6RS,9α,11α,15R)-5-Bromo-6,9-epoxy-11,15-dihydroxy-16,16-dimethylprost-13-enoic acid methyl ester | 1.24 g | COC(CCCC(C1C[C@H]2[C@H](C[C@H]([C@@H]2\C=C\[C@H](C(CCCC)(C)C)O)O)O1)Br)=O | C23H39BrO5
